### PR TITLE
[Merged by Bors] - feat(EReal): rework limsup_add properties

### PR DESCRIPTION
**Pull request by D-Thomine**
Rework of properties about iSup/iInf/limsup/liminf and addition in extended reals:

- A key property about addition and order has been abstracted away in Data.Real.Ereal. Three new lemmas `add_le_of_forall_lt_add_top`, `add_le_of_forall_lt_add`, `le_add_of_forall_gt_add`. The first one is private (generalized by the second one).
- These new lemmas allow for _very_ streamlined proofs of `add_liminf_le_liminf_add` and `limsup_add_le_add_limsup` in Topology.instances.EReal. I've also deleted a few intermediate lemmas which are not needed anymore.
- These new lemmas also allow for short proofs of a few more useful lemmas: `add_iInf_le_iInf_add`, `iSup_add_le_add_iSup` about Inf/Sup, and `limsup_add_liminf_le_limsup_add`, `liminf_add_le_limsup_add_liminf` about limsup/liminf.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by pitmonticone — COMMENTED** [review]
@D-Thomine Golfed a bit.

File: Mathlib/Data/Real/EReal.lean [hunk 1]
```diff
@@ -929,6 +929,94 @@ lemma neg_sub {x y : EReal} (h1 : x ≠ ⊥ ∨ y ≠ ⊥) (h2 : x ≠ ⊤ ∨ y
     - (x - y) = - x + y := by
   rw [sub_eq_add_neg, neg_add _ _, sub_eq_add_neg, neg_neg] <;> simp_all
 
+/-! ### Addition and order -/
+
+lemma le_iff_le_forall_real_gt (x y : EReal) : (∀ z : ℝ, x < z → y ≤ z) ↔ y ≤ x := by
```
Comment (j-loreaux) [inline Mathlib/Data/Real/EReal.lean:934]: This and the next lemma should follow much more easily from properties about `WithTop` and `WithBot`. Can you try to reprove them in a simpler way using those instead? If you can't manage it, ping me and I'll give it a go.

File: Mathlib/Data/Real/EReal.lean [hunk 2]
```diff
@@ -929,6 +929,94 @@ lemma neg_sub {x y : EReal} (h1 : x ≠ ⊥ ∨ y ≠ ⊥) (h2 : x ≠ ⊤ ∨ y
...
+      rcases exists_between x_lt_y with ⟨z, x_lt_z, z_lt_y⟩
+      exact not_le_of_lt x_lt_z (h z z_lt_y)
+    | h_top =>
+      exfalso
+      norm_cast at h
+      exact not_le_of_lt (lt_add_one x) (h (x + 1) (coe_lt_top (x + 1)))
+  | h_top => exact le_top
+
+/-- This lemma is superseded by `add_le_of_forall_lt_add_le`. -/
+private lemma add_le_of_forall_lt_add_top {a b : EReal} (h : ∀ c < ⊤, ∀ d < a, c + d ≤ b) :
```
Comment (j-loreaux) [inline Mathlib/Data/Real/EReal.lean:975]:
```suggestion
private lemma top_add_le_of_forall_add_le {a b : EReal} (h : ∀ c < ⊤, ∀ d < a, c + d ≤ b) :
```

File: Mathlib/Data/Real/EReal.lean [hunk 3]
```diff
@@ -929,6 +929,94 @@ lemma neg_sub {x y : EReal} (h1 : x ≠ ⊥ ∨ y ≠ ⊥) (h2 : x ≠ ⊤ ∨ y
...
+    rw [← coe_one, ← coe_sub, ← coe_sub, ← coe_add, ← coe_add, add_add_sub_cancel, sub_add_cancel,
+      EReal.coe_lt_coe_iff] at h
+    exact (not_le_of_lt b_c (h (sub_one_lt a))).rec
+  | h_top =>
+    refine top_add_top ▸ (le_iff_le_forall_real_gt _ _).1 fun c b_c ↦ ?_
+    specialize h c (coe_lt_top c) 0 zero_lt_top
+    rw [add_zero] at h
+    exact (not_le_of_lt b_c h).rec
+
+lemma add_le_of_forall_lt_add {a b c : EReal} (h : ∀ d < a, ∀ e < b, d + e ≤ c) : a + b ≤ c := by
```
Comment (j-loreaux) [inline Mathlib/Data/Real/EReal.lean:991]:
```suggestion
lemma add_le_of_forall_add_le {a b c : EReal} (h : ∀ d < a, ∀ e < b, d + e ≤ c) : a + b ≤ c := by
```

File: Mathlib/Data/Real/EReal.lean [hunk 4]
```diff
@@ -929,6 +929,94 @@ lemma neg_sub {x y : EReal} (h1 : x ≠ ⊥ ∨ y ≠ ⊥) (h2 : x ≠ ⊤ ∨ y
...
+      have key₁ : (a + d - e : ℝ) < (a : EReal) := by apply EReal.coe_lt_coe_iff.2; linarith
+      have key₂ : (e - a : ℝ) < (b : EReal) := by apply EReal.coe_lt_coe_iff.2; linarith
+      apply le_of_eq_of_le _ (h (a + d - e) key₁ (e - a) key₂)
+      rw [← coe_add, ← coe_sub,  ← coe_sub, ← coe_add, sub_add_sub_cancel, add_sub_cancel_left]
+    | h_top =>
+      rw [add_comm (a : EReal) ⊤]
+      exact add_le_of_forall_lt_add_top fun d d_top e e_a ↦ (add_comm d e ▸ h e e_a d d_top)
+  | h_top => exact add_le_of_forall_lt_add_top h
+
+lemma le_add_of_forall_gt_add {a b c : EReal} (h₁ : a ≠ ⊥ ∨ b ≠ ⊤) (h₂ : a ≠ ⊤ ∨ b ≠ ⊥)
```
Comment (j-loreaux) [inline Mathlib/Data/Real/EReal.lean:1009]:
```suggestion
lemma le_add_of_forall_le_add {a b c : EReal} (h₁ : a ≠ ⊥ ∨ b ≠ ⊤) (h₂ : a ≠ ⊤ ∨ b ≠ ⊥)
```

**Review by j-loreaux — COMMENTED** [review]
I'm a fan of this abstraction, but I think we can get away with even better proofs.

File: Mathlib/Data/Real/EReal.lean (hunk 1 above)
Comment (D-Thomine) [reply Mathlib/Data/Real/EReal.lean]: @j-loreaux : thanks for the idea. Here is what I've done:

- new lemmas `le_forall_gt_iff_le_of_withBot`, `ge_forall_lt_iff_ge_of_withBot`,  `le_forall_gt_iff_le_of_withTop`, `ge_forall_lt_iff_ge_of_withTop` in Order.WithBot. The idea is that the lemmas `le_of_forall_le_of_dense`, `ge_of_forall_le_of_dense` need the space to have no Bot/Top element, but we can actually push them through WithBot/WithTop constructions!
- the versions for EReal `le_forall_real_gt_iff_le`, `ge_forall_real_lt_iff_ge` can be deduced from `le_forall_gt_iff_le_of_withBot` pretty easily (I actually don't need the three other versions of the latter). This is not completely trivial (EReal is _WithBot (WithTop R)_, so `le_forall_gt_iff_le_of_withBot` gets you a version with _WithTop R_ instead of _R_), but still much cleaner than the current state of things.

Does this looks good to you?

There are two specific points on which I'd like your feedback:

- I am still quite bad at naming lemmas. I don't really like this version (for instance `le_forall_gt_iff_le_of_withBot`), so any suggestion is welcome.
- the proof of `ge_forall_real_lt_iff_ge` is too cumbersome. It should be a one-liner using `le_forall_real_gt_iff_le` and the negation (as an order-reversing isomorphism), but I don't know how to write it.

**Comment by grunweg** [comment]
Coming here from PR triage: it looks like this PR is waiting for review - except that is has a merge conflict, so will not appear in the review queue. Can you merge master, please? Thanks!Thanks!

**Comment by pitmonticone** [comment]
Hi @grunweg, just merged master. Thank you for your feedback.

File: Mathlib/Data/Real/EReal.lean [hunk 5]
```diff
@@ -929,6 +929,69 @@ lemma neg_sub {x y : EReal} (h1 : x ≠ ⊥ ∨ y ≠ ⊥) (h2 : x ≠ ⊤ ∨ y
...
   rw [sub_eq_add_neg, neg_add _ _, sub_eq_add_neg, neg_neg] <;> simp_all
 
+/-! ### Addition and order -/
+
+lemma le_forall_real_gt_iff_le {x y : EReal} : (∀ z : ℝ, x < z → y ≤ z) ↔ y ≤ x := by
+  refine ⟨fun h ↦ WithBot.le_forall_gt_iff_le_of_withBot.1 ?_,
+    fun h z x_z ↦ le_trans h (le_of_lt x_z)⟩
+  rw [WithTop.forall]
+  apply And.intro (fun _ ↦ le_top)
+  norm_cast
```
Comment (j-loreaux) [inline Mathlib/Data/Real/EReal.lean:939]:
```suggestion
  aesop
```

File: Mathlib/Data/Real/EReal.lean [hunk 6]
```diff
@@ -929,6 +929,69 @@ lemma neg_sub {x y : EReal} (h1 : x ≠ ⊥ ∨ y ≠ ⊥) (h2 : x ≠ ⊤ ∨ y
...
+
+lemma ge_forall_real_lt_iff_ge {x y : EReal} : (∀ z : ℝ, z < y → z ≤ x) ↔ y ≤ x := by
+  refine ⟨fun h ↦ ?_, fun h z z_y ↦ le_trans (le_of_lt z_y) h⟩
+  rw [← neg_le_neg_iff]
+  refine (@le_forall_real_gt_iff_le (-y) (-x)).1 fun z y_z ↦ ?_
+  specialize h (-z)
+  rw [coe_neg, neg_lt_iff_neg_lt] at h
+  exact EReal.neg_le_of_neg_le (h y_z)
```
Comment (j-loreaux) [inline Mathlib/Data/Real/EReal.lean:947]:
```suggestion
  refine ⟨fun h ↦ WithBot.ge_forall_lt_iff_ge_of_withBot.1 ?_,
    fun h z x_z ↦ le_trans (le_of_lt x_z) h⟩
  rw [WithTop.forall]
  aesop
```

**Review by j-loreaux — COMMENTED** [review]
This is all I have time for, but even with these changes, I think it's close to ready for merging.

File: Mathlib/Data/Real/EReal.lean (hunk 5 above)
Comment (pitmonticone) [reply Mathlib/Data/Real/EReal.lean:939]: Done, thanks.

File: Mathlib/Order/WithBot.lean [hunk 7]
```diff
@@ -975,6 +976,30 @@ lemma forall_lt_iff_eq_bot [Preorder α] {x : WithBot α} :
...
+    {x y : WithBot α} : (∀ z : α, x < z → y ≤ z) ↔ y ≤ x := by
+  refine ⟨fun h ↦ ?_, fun h z x_z ↦ le_trans h (le_of_lt x_z)⟩
+  induction y with
+  | bot => exact bot_le
+  | coe y => induction x with
+    | bot =>
+      rcases exists_not_ge y with ⟨z, y_z⟩
+      norm_cast at h
+      exact (y_z (h z (bot_lt_coe z))).rec
+    | coe x => norm_cast at *; exact le_of_forall_le_of_dense h
```
[the remark this answers is not in the document]
Comment (D-Thomine) [reply Mathlib/Order/WithBot.lean]: I've also taken this opportunity to clean up the proof of `EReal.limsup_le_iff` with a few tricks I've learnt this summer.

**Comment by j-loreaux** [comment]
LGTM now. In case someone wants to quibble about lemma names (some of these seemed pretty hard to name well):

maintainer merge
